US06169212A
1230 ml of a solution of CH3MgCl 3M in tetrahydrofurane (Fluka) was added to 26.5 g of CuBr (Fluka) in 11 of diisopropylether with stirring at 0° (bath temperature). After one night, the reaction mixture was cooled to −20° and 467 g of epoxymyrcene [2-(3,4-epoxy-4-methylpentyl)-1,3-butadiene] in 4 l of isopropylether were added dropwise. After the addition, the reaction mixture was warmed to room temperature. After 23 h the reaction was completed. After hydrolysis with a 15% NH4Cl-solution and washing with brine, the product was distilled to obtain 96.6% pure 2,3-dimethyl-6-methylene-7-octen-2-ol with a yield of 453.7 g (88%).

reactant | CH3MgCl | 3M | C[Mg]Cl
reactant | epoxymyrcene | 467 g | CC1(C(O1)CCC(=C)C=C)C | C10H16O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | isopropylether | 4 l | C(C)(C)OC(C)C | C6H14O
product | 2,3-dimethyl-6-methylene-7-octen-2-ol | 96.6% | CC(C)(C(CCC(C=C)=C)C)O | C11H20O
